US07629363B2
Step 4: Preparation of 4-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-3-chlorobenzoic acid
Methyl-4-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-3-chlorobenzoate (2.30 g, 4.61 mmol) was taken up in THF (20 ml) and H2O (4 ml). 2.5 N NAOH (9.2 ml) was added to the vessel and the reaction stirred overnight to completion. Concentrated HCl was added dropwise until reaction was made acidic (pH=1). H2O (100 ml) and THF (100 ml) were added to the mixture. The contents were poured into a separatory funnel and the aqueous layer was extracted with ethyl acetate. The organic layer was dried over Na2SO4, the solvent removed in vacuo, and the residue was taken up in a 50% mixture of ethyl acetate/hexane. The precipitate was collected on a filter pad to yield a white powder (1.5 g, 67%). 1H NMR (300 MHz, DMSO) δ 13.59 (1H), 8.16 (d, J=1.81 Hz, 1H), 8.06 (dd, J=6.24, 1.81 Hz, 1H), 7.73 (app q, J=8.46, 1H), 7.68 (d, J=8.26 Hz, 1H), 7.38 (dt, J=9.48, 2.62 Hz, 1H) 7.26-7.18 (m, 1H), 6.80 (s, 1H), 5.39 (s, 2H), 3.93 (s, 3H), 1.96 (s, 3H); ES-MS m/z 483 (M+H). ES-HRMS m/z 483.9749 (M+H calcd for C20H14BrClF2NO4 requires 483.9757).

reactant | Methyl-4-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-3-chlorobenzoate | 4.61 mmol, 2.30 g | COC(C1=CC(=C(C=C1)N1C(C(=C(C=C1C)OCC1=C(C=C(C=C1)F)F)Br)=O)Cl)=O | C21H15BrClF2NO4
reactant | HCl | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | H2O | 4 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | H2O | 100 ml | O | H2O
product | 4-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-3-chlorobenzoic acid | 1.5 g, 67% | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C1=C(C=C(C(=O)O)C=C1)Cl)=O | C20H13BrClF2NO4
